US03934008
34. Z-Asn-Lys(BOC)-Phe-His-NH-NH2
3.97 g of Z-Asn-Lys(BOC)-Phe-His-OMe are dissolved in 20 ml of boiling methanol. 2.5 ml of hydrazine hydrate are added to the solution whilst it is still at about 30°C and the mixture is allowed to stand for 20 hours at room temperature. The peptide-hydrazine is precipitated by adding water, filtered off and washed with water until free of hydrazine. The product is reprecipitated from dimethylformamide-water.

reactant | Z-Asn-Lys(BOC)-Phe-His-OMe | 3.97 g | N([C@@H](CC(N)=O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C39H52N8O10
reactant | hydrazine hydrate | 2.5 ml | O.NN
solvent | methanol | 20 ml | CO | CH4O
product | Z-Asn-Lys(BOC)-Phe-His-NH-NH2 | N([C@@H](CC(N)=O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C38H52N10O9
